US06165944
A solution of 3.52 g (88 mmol) of sodium hydroxide in 100 ml of methanol was slowly added dropwise to a mixture of 15.00 g (45 mmol) of methyl 2-chloro-3-(5-methyl-4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoate and 200 ml of methanol. The suspension was stirred at room temperature for 48 hours. The solvent was distilled off, the residue was taken up in water and the aqueous phase was washed three times with ethyl acetate. The aqueous phase was acidified with hydrochloric acid and extracted three times with ethyl acetate. The combined organic phases were subsequently washed neutral with water, dried and concentrated. 13.20 g (92% of theory) of 2-chloro-3-(5-methyl-4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoic acid were obtained.

reactant | sodium hydroxide | 88 mmol, 3.52 g | [OH-].[Na+]
reactant | methyl 2-chloro-3-(5-methyl-4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoate | 45 mmol, 15.00 g | ClC1=C(C(=O)OC)C=CC(=C1C1=NOC(C1)C)S(=O)(=O)C | C13H14ClNO5S
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | 2-chloro-3-(5-methyl-4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoic acid | 13.20 g, 92% | ClC1=C(C(=O)O)C=CC(=C1C1=NOC(C1)C)S(=O)(=O)C | C12H12ClNO5S
